US09062092B2
Compound 43d. 2-Vinyl-[1,4]dioxane-2-carboxylic acid methyl ester
A solution of 2-[1-(toluene-4-sulfonyloxy)-ethyl]-[1,4]dioxane-2-carboxylic acid methyl ester (1.68 g, 4.9 mmol) in 1,8-diazabicycloundec-7-ene (3 mL) was heated in a sealed tube at 130° C. for 2 h. The reaction mixture was cooled to room temperature and 2 M hydrochloric acid and diethyl ether were added. The mixture was extracted with diethyl ether and the organic extracts were combined and washed with brine. The organic solution was filtered through a hydrophobic frit and the filtrate was evaporated. The residue was purified by silica gel chromatography using a gradient of pentane/diethyl ether 3:1 to 1:1 to afford the title compound (308 mg, 36%) as a volatile, colorless oil. 1H NMR (300 MHz, CDCl3) δ 3.47 (d, J=11.6 Hz, 1H), 3.62-3.78 (m, 2H), 3.81-3.86 (m, 1H), 3.84 (s, 3H), 3.99-4.07 (m, 1H), 4.33 (d, J=11.6 Hz, 1H), 5.34 (dd, J=10.7, 1.1 Hz, 1H), 5.52 (dd, J=17.4, 1.1 Hz, 1H), 5.79 (dd, J=17.4, 10.7 Hz, 1H). LCMS (m/z) 195.1 [M+Na], Tr=1.23 min.

reactant | 2-[1-(toluene-4-sulfonyloxy)-ethyl]-[1,4]dioxane-2-carboxylic acid methyl ester | 4.9 mmol, 1.68 g | COC(=O)C1(OCCOC1)C(C)OS(=O)(=O)C1=CC=C(C=C1)C | C15H20O7S
reactant | hydrochloric acid | 2 M | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | 1,8-diazabicycloundec-7-ene | 3 mL | N1(CCCCCC=NCCC1)C1CCCCCCCCCC1 | C20H38N2
product | 2-Vinyl-[1,4]dioxane-2-carboxylic acid methyl ester | 308 mg, 36% | COC(=O)C1(OCCOC1)C=C | C8H12O4
